* c:\users\aditya\esim-workspace\flip_flops\flip_flops.cir

.include D_FF.sub
v1  d gnd pulse(5 5 0.5m 1m 1m 10 20)
v2  clk gnd pulse(5 0 0.5m 1m 1m 15 30)
v3 pre gnd  dc 5
v4 clr gnd  dc 5
r1  q gnd 1000k
r2  qb gnd 1000k
v5 vcc gnd  dc 5
x1 clk pre d clr gnd vcc q qb D_FF
.tran 0.1e-00 80e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
